US04330539
17β-Methylamino-5α-androstane-3β,16α-diol 3-acetate hydrochloride
A cold (0° C.) solution of hydrogen chloride (2 g) in methanol (10 ml) was added with stirring to a solution of 17β-methylamino-5α-androstane-3β,16α-diol 3-acetate (16 g) in methanol (16 ml) and chloroform (48 ml) at 0° C. Ether (300 ml) was added to precipitate 17β-methylamino-5α-androstane-3β,16α-diol 3-acetate hydrochloride as prisms (16 g), m.p. >270° C. (decomp.), [α]D +113° (C 1.04 in MeOH).

reactant | hydrogen chloride | 2 g | Cl | ClH
reactant | 17β-methylamino-5α-androstane-3β,16α-diol 3-acetate | 16 g | C(C)(=O)O[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4C[C@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)NC)O | C22H37NO3
reactant | Ether | 300 ml | CCOCC | C4H10O
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 16 ml | CO | CH4O
solvent | chloroform | 48 ml | C(Cl)(Cl)Cl | CHCl3
product | 17β-Methylamino-5α-androstane-3β,16α-diol 3-acetate hydrochloride | Cl.C(C)(=O)O[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4C[C@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)NC)O | InChI=1S/C22H37NO3.ClH/c1-13(24)26-15-7-9-21(2)14(11-15)5-6-16-17(21)8-10-22(3)18(16)12-19(25)20(22)23-4;/h14-20,23,25H,5-12H2,1-4H3;1H/t14-,15-,16+,17-,18-,19+,20-,21-,22-;/m0./s1
